US06844338B2
3,3-Dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazine 2,2-dioxide
3,4-Dihydro-1-(prop-2-en-1-yl)-3,3-dimethyl-6-methylthio-1H-2,1-benzothiazin-4-ol 2,2-dioxide (1.8 g; 0.0053 m) was dissolved in trifluoroacetic acid (30 mL) and triethylsilane (15 mL) was added in one portion. After stirring for 4 hrs, the reaction was reduced to an oil under vaccuo and after the addition of saturated sodium bicarbonate, the product extracted with dichloromethane, dried, filtered and isolated as a colourless solid.(1.6 g; 93%)

reactant | 3,4-Dihydro-1-(prop-2-en-1-yl)-3,3-dimethyl-6-methylthio-1H-2,1-benzothiazin-4-ol 2,2-dioxide | 1.8 g | C(C=C)N1S(C(C(C2=C1C=CC(=C2)SC)O)(C)C)(=O)=O | C14H19NO3S2
reactant | triethylsilane | 15 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3,3-Dimethyl-6-methylthio-1-(prop-2-en-1-yl)-1H-2,1-benzothiazine 2,2-dioxide | CC1(S(N(C2=C(C1)C=C(C=C2)SC)CC=C)(=O)=O)C | C14H19NO2S2
